US06569858B2
Step 1: 1,11-Dichloro-12-[4—O-methyl-2—O-tosyl-β-D-glucopyranosyl]-6,7,12,13-tetrahydro-(5H)-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7-dione
1 equivalent of potassium carbonate and 1 equivalent of tosyl chloride are added to a solution of 1.7 mmol of rebeccamycin in 200 ml of tetrahydrofuran. After 48 hours' reflux and concentration under reduced pressure, chromatography of the residue over silica gel (cyclohexane/ethyl acetate 70/30) enables the expected product to be isolated.

reactant | potassium carbonate | 1 equivalent | C([O-])([O-])=O.[K+].[K+]
reactant | tosyl chloride | 1 equivalent | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | rebeccamycin | 1.7 mmol | CO[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1O)O)N2C3=C(C=CC=C3Cl)C4=C2C5=C(C=6C=CC=C(C6N5)Cl)C7=C4C(=O)NC7=O)CO | C27H21Cl2N3O7
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1,11-Dichloro-12-[4—O-methyl-2—O-tosyl-β-D-glucopyranosyl]-6,7,12,13-tetrahydro-(5H)-indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7-dione | ClC1=CC=CC2=C1NC1=C2C2=C(C=3C4=CC=CC(=C4N(C13)[C@H]1[C@H](OS(=O)(=O)C3=CC=C(C)C=C3)[C@@H](O)[C@H](OC)[C@H](O1)CO)Cl)C(NC2=O)=O | C34H27Cl2N3O9S
